US08461134B2
1-(2,2,2-Trifluoroacetyl)indoline-5-sulfonyl chloride
2,2,2-trifluoro-1-(indolin-1-yl)ethanone (5 g, 16 mmol) was added to neat chlorosulfonic acid at 0° C. and then the solution was allowed to warm to rt and stirred for an additional 2 hrs. Reaction mixture was slowly added to ice chips and stirred for 10 min then filtered off 4.2 g of the title compound as a dark red colored solid.

reactant | 2,2,2-trifluoro-1-(indolin-1-yl)ethanone | 16 mmol, 5 g | FC(C(=O)N1CCC2=CC=CC=C12)(F)F | C10H8F3NO
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 1-(2,2,2-Trifluoroacetyl)indoline-5-sulfonyl chloride | FC(C(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)Cl)(F)F | C10H7ClF3NO3S
